US09359359B2
To a solution of 3-(trifluoromethoxy)phenol (0.3 g, 1.68 mmol) in DMF (10 mL) was added 3-bromopropan-1-ol (0.47 g, 3.37 mmol) and potassium carbonate (0.47 g, 3.37 mmol). The reaction was heated at 80° C. overnight. The mixture was cooled and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and concentrated to give a crude product which was purified by column chromatography eluting with petroleum ether and ethyl acetate (10:1) to give 3-(3-(trifluoromethoxy)phenoxy)propan-1-ol (0.32 g, 80.6% yield) as yellow oil.

reactant | 3-(trifluoromethoxy)phenol | 1.68 mmol, 0.3 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | 3-bromopropan-1-ol | 3.37 mmol, 0.47 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 3.37 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(3-(trifluoromethoxy)phenoxy)propan-1-ol | 0.32 g, 80.6% yield | FC(OC=1C=C(OCCCO)C=CC1)(F)F | C10H11F3O3
